US07683079B2
Step A]: 4-Amino-1-benzyl-1,2,5,6-tetrahydro-pyridine-3-carboxylic acid methyl ester
rac-1-Benzyl-4-oxo-piperidine-3-carboxylic acid methyl ester (25 g) was suspended in 100 ml ammonium hydroxide 25% and heated at 50° C. during 18 h. The mixture was cooled with ice and then, NaBH4 (1 g) was added in several portions. Stirring was continued for 18 h at ambient temperature and the mixture was diluted with water/ice, with cooling, and extracted with AcOEt. The organic extract was washed with brine and dried over sodium sulfate. Removal of the solvent under reduced pressure gave a brown oil which was purified by column chromatography (silica gel, heptane/AcOEt, 1/1) and precipitated (AcOEt/heptane) to give 12.1 g (56%) of the title compound as white solid and 6 g (25%) of the title compound as its borane salt.

reactant | rac-1-Benzyl-4-oxo-piperidine-3-carboxylic acid methyl ester | 25 g | COC(=O)C1CN(CCC1=O)CC1=CC=CC=C1 | C14H17NO3
reactant | NaBH4 | 1 g | [BH4-].[Na+]
reactant | ammonium hydroxide | 100 ml | [OH-].[NH4+]
product | 4-Amino-1-benzyl-1,2,5,6-tetrahydro-pyridine-3-carboxylic acid methyl ester | 6 g, 25% | COC(=O)C=1CN(CCC1N)CC1=CC=CC=C1 | C14H18N2O2
